US08252798B2
Combine 2-chloro-N-(4-chloro-2-methyl-6-(tetrahydro-2H-pyran-4-ylamino)-pyrimidin-5-yl) benzamide (45.0 g, 118.0 mmol), 1-methylpiperazine (23.0 mL, 207.0 mmol), di-isopropylethylamine (23.0 mL, 131.9 mmol) and isopropyl alcohol (225 mL) in a 1 L Parr reactor. Seal the reactor, start stirring, and adjust the set-point for heat control to 160° C. After the internal temperature reaches 160° C., stir the mixture for 24 hours. Cool the reactor contents to 60° C., vent the vessel of pressure, and transfer the contents to a 2 L flask equipped with overhead stirring apparatus. Rinse out reactor flask with isopropyl alcohol (25.0 mL) and combine the rinse with main solution. Add cold, de-ionized water (780 mL) to the mixture over 30 minutes and stir the resulting precipitate for 30 minutes. Filter the mixture, wash the solids with de-ionized water (2×270 mL) and pull dry on the funnel Further dry the product overnight at 45° C. to afford the 8-(2-Chloro-phenyl)-2-methyl-6-(4-methyl-piperazin-1-yl)-9-(tetrahydro pyran-4-yl)-9H-purine as an off-white solid (44.8 g) MS (m/z): 427/429 (M+1).

reactant | 2-chloro-N-(4-chloro-2-methyl-6-(tetrahydro-2H-pyran-4-ylamino)-pyrimidin-5-yl) benzamide | 118.0 mmol, 45.0 g | ClC1=C(C(=O)NC=2C(=NC(=NC2NC2CCOCC2)C)Cl)C=CC=C1 | C17H18Cl2N4O2
reactant | 1-methylpiperazine | 207.0 mmol, 23.0 mL | CN1CCNCC1 | C5H12N2
reactant | di-isopropylethylamine | 131.9 mmol, 23.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropyl alcohol | 225 mL | C(C)(C)O | C3H8O
product | 8-(2-Chloro-phenyl)-2-methyl-6-(4-methyl-piperazin-1-yl)-9-(tetrahydro pyran-4-yl)-9H-purine | 44.8 g | ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)C)C)C1CCOCC1 | C22H27ClN6O
